US08445510B2
4-{[tert-Butyl(dimethyl)silyl]oxy}-1-(1-methyl-1H-imidazol-2-yl)piperidine
A mixture of 1-(1-Methyl-1H-imidazol-2-yl)piperidin-4-ol (0.200 g, 1.10 mmol), tert-Butyldimethylsilyl chloride (0.333 g, 2.21 mmol), 4-Dimethylaminopyridine (30 mg, 0.2 mmol), 1H-Imidazole (225 mg, 3.31 mmol) and DCM (6.0 mL, 94 mmol) was stirred at ambient temperature for 1 h. The reaction mixture was diluted with DCM to ≈60 mL, washed with sat. NaHCO3 solution, water, and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel [Isco Combiflash, 2.5 g loading column/12 g column, eluting with DCM→5% MeOH in DCM]. Fractions containing the title compound were combined and dried in vacuo overnight, giving the title compound as yellow oil. 1H NMR (400 MHz, CDCl3): δ=6.77 (d, J=1.2 Hz, 1H), 6.65 (d, J=1.4 Hz, 1H), 3.85 (tt, J=8.0, 3.8 Hz, 1H), 3.47 (s, 3H), 3.28-3.21 (m, 2H), 2.91 (br ddd, J=12.0, 9.0, 3.0 Hz, 2H), 1.92-1.84 (m, 2H), 1.73-1.64 (m, 2H), 0.90 (s, 9H), 0.07 (s, 6H). MS (ES+): m/z=296.29 (100) [MH+]. HPLC: tR=3.22 min (verypolar—5 min, ZQ3). UV: λmax≈240 nm.

reactant | 1-(1-Methyl-1H-imidazol-2-yl)piperidin-4-ol | 1.10 mmol, 0.200 g | CN1C(=NC=C1)N1CCC(CC1)O | C9H15N3O
reactant | tert-Butyldimethylsilyl chloride | 2.21 mmol, 0.333 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 1H-Imidazole | 3.31 mmol, 225 mg | N1C=NC=C1 | C3H4N2
catalyst | 4-Dimethylaminopyridine | 0.2 mmol, 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 94 mmol, 6.0 mL | C(Cl)Cl | CH2Cl2
product | 4-{[tert-Butyl(dimethyl)silyl]oxy}-1-(1-methyl-1H-imidazol-2-yl)piperidine | [Si](C)(C)(C(C)(C)C)OC1CCN(CC1)C=1N(C=CN1)C | C15H29N3OSi
